US06921753B2
2-Chloro-N-(1-naphthylmethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine
1-Naphthylmethanamine (5.4 g, 19.7 mmol) was added to a stirred solution of 2,6-dichloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (3.5 g, 22.3 mmol) (Preparation 19) and triethylamine (4 g, 39.6 mmol) in acetonitrile (150 ml) at room temperature. The reaction mixture was stirred at room temperature for 64 hours. The solvent was removed under reduced pressure, ethyl acetate (100 ml) was added and then the solvent was removed under reduced pressure again. The residue was purified by column chromatography on silica gel eluting with pentane:ethyl acetate (1:1 by volume) increasing in polarity to neat ethyl acetate. The solvent was removed under reduced pressure to give the title compound (7.56 g) as a solid.

reactant | 1-Naphthylmethanamine | 19.7 mmol, 5.4 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | 2,6-dichloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 22.3 mmol, 3.5 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)Cl | C10H10Cl2N4O
reactant | triethylamine | 39.6 mmol, 4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-Chloro-N-(1-naphthylmethyl)-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 7.56 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCC1=CC=CC2=CC=CC=C12 | C21H20ClN5O
